US06878721B1
N-(5-Acetyl-2-methyl-indan-2-yl)-benzamide
Aluminium chloride (3.7 g) is dissolved in nitromethane (12 ml) under nitrogen followed by N-(2-methyl-indan-2-yl)-benzamide (3.0 g) at 0° C. Acetyl chloride (0.85 ml) is added dropwise over 30 minutes. After 4 hours at room temperature the mixture is quenched with ice and concentrated HCl, extracted with DCM. The organic layers are washed with dilute HCl and brine. Evaporation of the solvent yielded the desired product. ES+ MS m/e 294 (MH+).

reactant | Aluminium chloride | 3.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | N-(2-methyl-indan-2-yl)-benzamide | 3.0 g | CC1(CC2=CC=CC=C2C1)NC(C1=CC=CC=C1)=O | C17H17NO
reactant | Acetyl chloride | 0.85 ml | C(C)(=O)Cl | C2H3ClO
solvent | nitromethane | 12 ml | [N+](=O)([O-])C | CH3NO2
product | N-(5-Acetyl-2-methyl-indan-2-yl)-benzamide | C(C)(=O)C=1C=C2CC(CC2=CC1)(C)NC(C1=CC=CC=C1)=O | C19H19NO2
